US09326987B2
6-{1-[(4-Methyl phenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridin-5-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine
1-(Phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (775 mg), Pd(PPh3)4 (212 mg) and 5-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine (775 mg) were introduced into a microwave vial and DMF (10 ml) was added. The mixture was heated in the microwave at 120° C. for 4 h. The solvent was removed in vacuo and the crude residue was placed on a high vacuum line overnight. The resulting brown oil was purified by FlashMaster II. The crude material was dissolved in chloroform and added to the top of 2×100 g silica SPE cartridges that were subsequently eluted with 0-100% ethyl acetate:cyclohexane over 60 min. The product-containing fractions were combined and the solvent was removed in vacuo. The residue was dried on a high vacuum line to give the title product, 371 mg as a cream solid.

reactant | 1-(Phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 775 mg | C1(=CC=CC=C1)S(=O)(=O)N1N=CC=2C(=CC(=CC12)[Sn](C)(C)C)N
reactant | 5-bromo-1-[(4-methylphenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridine | 775 mg | BrC=1C=C2C(=NC1)N(N=C2)S(=O)(=O)C2=CC=C(C=C2)C | C13H10BrN3O2S
catalyst | Pd(PPh3)4 | 212 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-{1-[(4-Methyl phenyl)sulfonyl]-1H-pyrazolo[3,4-b]pyridin-5-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine | CC1=CC=C(C=C1)S(=O)(=O)N1N=CC=2C1=NC=C(C2)C=2C=C(C=1C=NN(C1C2)S(=O)(=O)C2=CC=CC=C2)N | C26H20N6O4S2
